US07135466B2
N-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2-methylphenyl}-N′-(4-nitrobenzoyl)thiourea
Commercially available 4-nitro-1-benzenecarbonyl isothiocyanate (30 mg) was dissolved in ethanol (1 ml) to prepare a solution. 4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2-methylaniline (50 mg), toluene (5 ml), and ethanol (1 ml) were added to the solution, and the mixture was stirred at room temperature for 2 hr. The reaction solution was concentrated, and the residue was purified by chromatography on silica gel using chloroform/acetone for development to give the title compound (41 mg, yield 49%).

reactant | 4-nitro-1-benzenecarbonyl isothiocyanate | 30 mg | [N+](=O)([O-])C1=CC=C(C=C1)C(=O)N=C=S | C8H4N2O3S
reactant | 4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2-methylaniline | 50 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(N)C=C1)C | C18H18N2O3
reactant | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | N-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2-methylphenyl}-N′-(4-nitrobenzoyl)thiourea | 41 mg, yield 49% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(C=C1)NC(=S)NC(C1=CC=C(C=C1)[N+](=O)[O-])=O)C | C26H22N4O6S
